US04797413
Step B: Preparation of 5,6-dihydro-4-oxo-4H-thieno[2,3-b]thiophene-6-carboxylic acid
To a stirred suspension of 2-(2-thienylthio)succinic acid (75.5 g, 0.325 mol) in methylene chloride (500 ml) under a nitrogen atmosphere was added dimethylformamide (3 ml) followed by the dropwise addition of oxalyl chloride (70.7 ml, 0.81 mol) over a 1/2 hour period. The mixture was stirred at ambient temperature for 21/2 hours and the resulting solution was concentrated in vacuo to a brown oil. Then 1/2 of this oil was dissolved in methylene chloride (200 ml), cooled to about -78° C. and stirred as trifluoromethane sulfonic acid (50 g, 0.33 mol) was added dropwise over 5 minutes. After 1/4 hour at -78° C., the cooling bath was removed and the temperature was allowed to rise to room temperature. After 43/4 hours, the mixture was poured into ice and water. Methylene chloride (400 ml) was added and the mixture was filtered to obtain the product as a pale gray solid (4.1 g). The methylene chloride layer was separated, washed with H2O, dried over Na2SO4, filtered and concentrated in vacuo to a black gum. The gum was dissolved in ethyl acetate (150 ml). This solution was extracted with 10×50 ml of 0.25N KOH. The individual extracts were acidified and solids were filtered and dried. Total product obtained was 19 g or 55% yield. Pure product melted at 182.5°-184° C.

reactant | 2-(2-thienylthio)succinic acid | 0.325 mol, 75.5 g | S1C(=CC=C1)SC(C(=O)O)CC(=O)O | C8H8O4S2
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.81 mol, 70.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoromethane sulfonic acid | 0.33 mol, 50 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 5,6-dihydro-4-oxo-4H-thieno[2,3-b]thiophene-6-carboxylic acid | 4.1 g, 55% yield | O=C1C2=C(S(C1)C(=O)O)SC=C2 | C7H6O3S2
